US09422292B2
A solution of 7-bromo-4,5-dihydrospiro[benzo[b][1,4]diazepine-3,1′-cyclopropane]-2(1H)-thione (500 mg, 1.77 mmol) and acetohydrazide (1.05 g, 14.2 mmol) in n-butanol (15 mL) was heated to 130° C., and maintained at the same temperature for 12 hours. The reaction mixture was concentrated, extracted with ethyl acetate (15 mL), washed with water (25 mL*2). The organic phase was separated, dried by sodium sulfate, filtered and concentrated to give the crude product, which was purified by column chromatography (silica gel, dichloromethane/methanol=30:1) to afford 8-bromo-1-methyl-5,6-dihydrospiro[benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine-4,1′-cyclopropane] (286 mg, 53%). 1H NMR (300 MHz, d6-DMSO): δ 7.31-7.28 (m, 2H), 7.11 (dd, J=6.0 Hz, J=2.4 Hz, 1H), 5.80-5.78 (m, 1H), 3.36-3.35 (m, 2H), 2.37 (s, 3H), 0.88-0.86 (m, 2H), 0.77-0.73 (m, 2H). LRMS (M+H)+: calcd 304.03. found 304.

reactant | 7-bromo-4,5-dihydrospiro[benzo[b][1,4]diazepine-3,1′-cyclopropane]-2(1H)-thione | 1.77 mmol, 500 mg | BrC1=CC2=C(NC(C3(CC3)CN2)=S)C=C1 | C11H11BrN2S
reactant | acetohydrazide | 14.2 mmol, 1.05 g | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | 15 mL | C(CCC)O | C4H10O
product | 8-bromo-1-methyl-5,6-dihydrospiro[benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine-4,1′-cyclopropane] | 286 mg, 53% | BrC=1C=CC2=C(NCC3(CC3)C=3N2C(=NN3)C)C1 | C13H13BrN4
